US08461167B2
1-[(dimethylphosphoryl)methyl]piperazine
tert-butyl 4-[(dimethylphosphoryl)methyl]piperazine-1-carboxylate (1.01 g, 3.66 mmole) was dissolved in 7 mL of anhydrous dichloromethane. At 0° C., 7 mL of TFA:DCM=1:1 solution was added in 3 portions. The reaction mixture was stirred at this temperature for 15 minutes before another 3.5 mL of TFA was added, and then continued to stir at room temperature for 2 hours. Volatile components were evaporated and yield light yellow oil. The crude mixture was directly carried into next step. MS (LC/MS): 199.2 [M+Na]

reactant | tert-butyl 4-[(dimethylphosphoryl)methyl]piperazine-1-carboxylate | 3.66 mmole, 1.01 g | CP(=O)(C)CN1CCN(CC1)C(=O)OC(C)(C)C | C12H25N2O3P
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 3.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[(dimethylphosphoryl)methyl]piperazine | CP(=O)(C)CN1CCNCC1 | C7H17N2OP
